US09024027B2
To a solution of 7-nitro-1H-indole (0.5 g, 3.08 mmol) in dry CH3CN (20 ml), K2CO3 (0.511 g, 3.70 mmol) was added at room temperature. After 10 minutes, methyl 2-bromoacetate (0.343 ml, 3.70 mmol) was added dropwise, and the reaction was refluxed for 24 hours. Additional K2CO3 (0.511 g, 3.70 mmol) and methyl 2-bromoacetate (0.343 ml, 3.70 mmol) were added, and the stirring was prolonged for further 16 hours. The reaction was cooled at room temperature and the solvent was evaporated under vacuum. The resulting crude was partitioned between water and DCM; the organic phase was dried over sodium sulfate and evaporated under vacuum. The crude was purified by flash column chromatography on silica gel (hexane:ethyl acetate=9:1) affording methyl 2-(7-nitro-1H-indol-1-yl)acetate that crystallizes on standing (0.37 g, 1.580 mmol, 51% yield). MS/ESI+ 234.9 [MH]+.

reactant | 7-nitro-1H-indole | 3.08 mmol, 0.5 g | [N+](=O)([O-])C=1C=CC=C2C=CNC12 | C8H6N2O2
reactant | K2CO3 | 3.70 mmol, 0.511 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl 2-bromoacetate | 3.70 mmol, 0.343 ml | BrCC(=O)OC | C3H5BrO2
reactant | K2CO3 | 3.70 mmol, 0.511 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl 2-bromoacetate | 3.70 mmol, 0.343 ml | BrCC(=O)OC | C3H5BrO2
solvent | CH3CN | 20 ml | CC#N | C2H3N
product | methyl 2-(7-nitro-1H-indol-1-yl)acetate | 51% yield | [N+](=O)([O-])C=1C=CC=C2C=CN(C12)CC(=O)OC | C11H10N2O4
